US04540693
B. 6-Amino-2,3-dimethylquinoxaline
A near solution of 2,3-dimethyl-6-nitroquinoxaline (62.9 g, 0.31 mole) in 1 L of absolute alcohol (Mallinkrodt) was hydrogenated in Parr apparatus using 5% Palladium on carbon 50% wet catalyst (Englehard). Hydrogen uptake (100% of theory) in 2 hours was noted. After the reduction stopped the catalyst was removed by filtration and the filtrate remaining concentrated to dryness in vacuo. The residue remaining was used without further purification as an intermediate in part C. Yield 52 g (96%).

reactant | 2,3-dimethyl-6-nitroquinoxaline | 0.31 mole, 62.9 g | CC1=NC2=CC=C(C=C2N=C1C)[N+](=O)[O-] | C10H9N3O2
reactant | Hydrogen | [H][H] | H2
catalyst | Palladium on carbon | [Pd] | Pd
product | 6-Amino-2,3-dimethylquinoxaline | NC=1C=C2N=C(C(=NC2=CC1)C)C | C10H11N3
